US06010708
In a one L three-necked flask were placed 31.9 g (0.24 mol) of L-aspartic acid and an aqueous solution of 19.2 g (0.48 mol) of sodium hydroxide in 150 mL of water under stirring. After the L-aspartic acid was dissolved, 120 mL of acetone was added to the mixture in the flask. Then, to the resultant reaction liquid which had been cooled to 0° C. were added dropwise over a period of 30 minutes, 52.2 g (0.2 mol) of pentadecanoyl chloride and an aqueous solution of 0.2N sodium hydroxide in 30 mL of water simultaneously therewith, while maintaining the reaction temperature at 0 to 5° C. and pH at 11 to 12. Thereafter, by gradually raising the temperature of the reaction liquid to room temperature (25° C) under stirring over a period of 2 hours, a solution of disodium pentadecanoyl-L-aspartate was obtained. To the resultant solution was added 140 mL of 5N hydrochloric acid to lower the pH of the solution to 1. The crystal thus precipitated was separated from the solution by means of vacuum filtration, washed with water and dried under reduced pressure. The resultant crystal was washed with 500 mL of hexane, dried and recrystallized from a mixed solvent of ethanol/water (1:1 v/v). As a result 39.8 g (0.11 mol) of N-pentadecanoyl-L-aspartic acid was obtained in a yield of 55.6% based on the fed pentadecanoyl chloride. The physical properties of the objective N-pentadecanoyl-L-aspartic acid were as follows.

reactant | L-aspartic acid | 0.24 mol, 31.9 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | sodium hydroxide | 0.48 mol, 19.2 g | [OH-].[Na+]
reactant | acetone | 120 mL | CC(=O)C | C3H6O
reactant | pentadecanoyl chloride | 0.2 mol, 52.2 g | C(CCCCCCCCCCCCCC)(=O)Cl | C15H29ClO
reactant | sodium hydroxide | 0.2N | [OH-].[Na+]
solvent | water | 150 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | disodium pentadecanoyl-L-aspartate | C(CCCCCCCCCCCCCC)(=O)N[C@@H](CC(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C19H35NO5.2Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-17(21)20-16(19(24)25)15-18(22)23;;/h16H,2-15H2,1H3,(H,20,21)(H,22,23)(H,24,25);;/q;2*+1/p-2/t16-;;/m0../s1
